US06965048B2
To a cooled (˜15° C.) and stirred solution of 18 g (57.4 mmol) of trans-acetic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester in 135 mL of dioxane was added within 5 min 63.2 mL (63.2 mmol, 1.1 eq) of aqueous 1M NaOH. The reaction was homogenised with 13 mL of MeOH and 28.7 mL (28.7 mmol, 0.5 eq) of aqueous 1M NaOH after 3 h, then stirred for additional 1.5 h. The reaction was evaporated to remove the dioxane, partitioned between Et2O (×3)/H2O, dried over Na2SO4 and evaporated to yield 17.13 g (quantitative) of trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester, MS: 272 (MH+).

reactant | trans-acetic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester | 57.4 mmol, 18 g | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)COC(C)=O)C | C17H31NO4
reactant | NaOH | 1M | [OH-].[Na+]
reactant | MeOH | 13 mL | CO | CH4O
reactant | NaOH | 1M | [OH-].[Na+]
solvent | dioxane | 135 mL | O1CCOCC1 | C4H8O2
product | trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 17.13 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CO)=O | C15H29NO3
